US04950686
(4) Tropolone nickel complex
Tropolone (244 mg) is treated with nickel chloride hexahydrate (237 mg) in the same manner as that in the case of cobalt complex to give 287 mg of tropolone nickel complex as light green needles.

reactant | Tropolone | 244 mg | C1=CC=C(C(=O)C=C1)O | C7H6O2
reactant | nickel chloride hexahydrate | 237 mg | O.O.O.O.O.O.[Ni](Cl)Cl
product | Tropolone nickel | C1=CC=C(C(=O)C=C1)O.[Ni] | InChI=1S/C7H6O2.Ni/c8-6-4-2-1-3-5-7(6)9;/h1-5H,(H,8,9);
